US07307165B2
Synthesis of N′-(2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-dimethylformamidine
2,6-Dichloroimidazo[1,2-b]pyridazin-3-ylsulfonamide (2.00 g, 6.22 mmol) and N,N-Dimethylformamide dimethyl acetal (1.80 ml, 13.5 mmol) were heated under reflux for 4 hours in toluene (20.0 ml). The resulting reaction solution was left to cool to room temperature, and concentrated to dryness under reduced pressure to give the title compound as pale yellow crystals. The yield was 2.36 g (100%).

reactant | 2,6-Dichloroimidazo[1,2-b]pyridazin-3-ylsulfonamide | 6.22 mmol, 2.00 g | ClC=1N=C2N(N=C(C=C2)Cl)C1S(=O)(=O)N | C6H4Cl2N4O2S
reactant | N,N-Dimethylformamide dimethyl acetal | 13.5 mmol, 1.80 ml | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 20.0 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-dimethylformamidine | ClC=1N=C2N(N=C(C=C2)Cl)C1S(=O)(=O)N=CN(C)C | C9H9Cl2N5O2S
